US09126931B2
3-Chloro-8-hydroxy-2,6,6-trimethyl-5,6-dihydro-benzo[b]carbazol-11-one
3-Chloro-8-methoxy-2,6,6-trimethyl-5,6-dihydro-benzo[b]carbazol-11-one (Compound S1-2, 18.9 mg, 0.0556 mmol) and pyridinium chloride (220 mg, 34 eq.) were stirred at 185° C. for 2.5 hr. After cooling, the reaction solution was added with water and ethyl acetate, and the organic layer was washed with water and saturated brine, dried over magnesium sulfate, filtered and concentrated under reduced pressure to obtain the title compound as a crude product.

reactant | 3-Chloro-8-methoxy-2,6,6-trimethyl-5,6-dihydro-benzo[b]carbazol-11-one | 0.0556 mmol, 18.9 mg | ClC1=C(C=C2C=3C(C4=C(C(C3NC2=C1)(C)C)C=C(C=C4)OC)=O)C | C20H18ClNO2
reactant | pyridinium chloride | 220 mg, 34 eq. | [Cl-].[NH+]1=CC=CC=C1
reactant | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-Chloro-8-hydroxy-2,6,6-trimethyl-5,6-dihydro-benzo[b]carbazol-11-one | ClC1=C(C=C2C=3C(C4=C(C(C3NC2=C1)(C)C)C=C(C=C4)O)=O)C | C19H16ClNO2
